US04348322
Hydrogen gas was allowed to react with a stirred suspension of 2-[4-(4-chlorophenyl)phenyl]-5-ethyl-5-phenyl-1,3-dioxolan-4-one (3.8 g.) and 5% w/w palladium on carbon (0.2 g.) in ethanol (160 ml.) at 55° to 60° C. and atmospheric pressure for four hours. The mixture was diluted with toluene (50 ml.). The solid material was separated by filtration and the filtrate was evaporated. The resultant solid may be purified by high pressure liquid chromatography on "Spherisorb"* 5μ ODS solid phase using an eluant containing acetonitrile (62% v/v), water (37.9% v/v) and phosphoric acid (0.1% v/v) using ultraviolet absorbance at 262 μm for detection to give 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylbutyric acid identical to that obtained in previous examples.

reactant | Hydrogen | [H][H] | H2
reactant | 2-[4-(4-chlorophenyl)phenyl]-5-ethyl-5-phenyl-1,3-dioxolan-4-one | 3.8 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1OC(C(O1)=O)(C1=CC=CC=C1)CC | C23H19ClO3
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylbutyric acid | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(CC)C2=CC=CC=C2)C=C1 | C23H21ClO3
